US09359338B2
Step 1: Synthesis of 6-(6-chloropyrimidin-4-yl)oxypyridin-3-amine
Add 5-aminopyridin-2-ol (500 mg, 4.545 mmol), t-BuOK (555 mg, 4.545 mmol) in DMF (20 mL), stir at 25° C. for 30 min. Cool to 0° C., add slowly 4,6-dichloropyrimidine (614 mg, 4.13 mmol). Stir the reaction under N2 for 1 hr. TLC (EtOAc:PE=1:1) shows the reaction is complete. Cool the mixture to 0° C., add water (20 mL), extract with EtOAc (20 mL×2). Combine the organic layers; wash with brine, dry over anhydrous Na2SO4. Filter and concentrate under reduced pressure to give crude product. Purification by chromatography (silica gel, EtOAc:PE=1:1) affords the title compound (650 mg, 70.8%). MS: (M+1): 223.1.

reactant | 5-aminopyridin-2-ol | 4.545 mmol, 500 mg | NC=1C=CC(=NC1)O | C5H6N2O
reactant | t-BuOK | 4.545 mmol, 555 mg | CC(C)(C)[O-].[K+]
reactant | 4,6-dichloropyrimidine | 4.13 mmol, 614 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 6-(6-chloropyrimidin-4-yl)oxypyridin-3-amine | 650 mg, 70.8% | ClC1=CC(=NC=N1)OC1=CC=C(C=N1)N | C9H7ClN4O
